data/cycloadd/train.csv
Unnamed: 0,rxn_id,AAM,solvent,temp,G_act,G_r
1063,1160,[CH3:11][NH:12][C:13](=[O:14])[C:15]([C:16]#[N:17])=[O+:18][CH-:19][C:20]#[N:21].[CH3:1][O:2][C:3]1=[C:4]([Br:5])[CH:6]2[CH2:7][CH2:8][CH:9]1[CH2:10]2>>[CH3:1][O:2][C:3]12[C:4]([Br:5])([CH:6]3[CH2:7][CH2:8][CH:9]1[CH2:10]3)[C:15]([C:13]([NH:12][CH3:11])=[O:14])([C:16]#[N:17])[O:18][CH:19]2[C:20]#[N:21],water,298.15,2.8668938231227545,-47.46060129492359
4159,4762,[CH2:1]=[CH2:2].[CH3:3][O:4][C:5](=[O:6])[C:7](=[O+:8][C-:9]([C:10]([CH3:11])=[O:12])[C:13](=[O:14])[O:15][CH3:16])[c:17]1[cH:18][cH:19][cH:20][cH:21][cH:22]1>>[CH2:1]1[CH2:2][C:9]([C:10]([CH3:11])=[O:12])([C:13](=[O:14])[O:15][CH3:16])[O:8][C:7]1([C:5]([O:4][CH3:3])=[O:6])[c:17]1[cH:18][cH:19][cH:20][cH:21][cH:22]1,water,298.15,12.835958340413187,-48.982656170217744
4354,4975,[CH3:10][O:11][C:12](=[O:13])[C-:14]([CH3:15])[O+:16]=[CH:17][c:18]1[cH:19][cH:20][cH:21][cH:22][cH:23]1.[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]1([CH3:3])[CH:4](/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9])[C:14]([C:12]([O:11][CH3:10])=[O:13])([CH3:15])[O:16][CH:17]1[c:18]1[cH:19][cH:20][cH:21][cH:22][cH:23]1,water,298.15,9.029335041972304,-38.14803914197379
3163,3569,[CH3:1]/[CH:2]=[CH:3]/[CH3:4].[CH3:5][NH:6][C:7](=[O:8])[C:9]([C:10]#[N:11])=[O+:12][C-:13]([CH3:14])[C:15]#[N:16]>>[CH3:1][C@H:2]1[C@H:3]([CH3:4])[C:13]([CH3:14])([C:15]#[N:16])[O:12][C:9]1([C:7]([NH:6][CH3:5])=[O:8])[C:10]#[N:11],water,298.15,10.363612192620954,-55.95064576219379
953,1034,[CH3:12][NH:13][C:14](=[O:15])[C-:16]([N+:17]#[C:18][C:19]#[N:20])[C:21](=[O:22])[NH:23][CH3:24].[CH3:1][C:2](=[O:3])[C:4]1=[C:5]([CH3:6])[CH:7]2[CH:8]=[CH:9][CH:10]1[O:11]2>>[CH3:1][C:2](=[O:3])[C:4]1=[C:5]([CH3:6])[CH:7]2[CH:8]3[CH:9]([CH:10]1[O:11]2)[C:16]([C:14]([NH:13][CH3:12])=[O:15])([C:21](=[O:22])[NH:23][CH3:24])[N:17]=[C:18]3[C:19]#[N:20],water,298.15,7.133743211672747,-64.76917557342122
552,602,[CH3:9][C:10](=[O:11])[C:12]([CH3:13])=[O+:14][C-:15]([CH3:16])[c:17]1[cH:18][cH:19][cH:20][cH:21][cH:22]1.[F:1][C:2]1=[CH:3][CH:4]2[CH:5]=[CH:6][CH:7]1[O:8]2>>[F:1][C:2]1=[CH:3][CH:4]2[CH:5]3[CH:6]([CH:7]1[O:8]2)[C:12]([C:10]([CH3:9])=[O:11])([CH3:13])[O:14][C:15]3([CH3:16])[c:17]1[cH:18][cH:19][cH:20][cH:21][cH:22]1,water,298.15,16.744351802631098,-57.76923083188561
57,68,[CH2-:9][NH+:10]=[C:11]([CH3:12])[C:13](=[O:14])[O:15][CH3:16].[CH:1]#[C:2][c:3]1[cH:4][cH:5][cH:6][cH:7][cH:8]1>>[CH:1]1=[C:2]([c:3]2[cH:4][cH:5][cH:6][cH:7][cH:8]2)[C:11]([CH3:12])([C:13](=[O:14])[O:15][CH3:16])[NH:10][CH2:9]1,water,298.15,15.484566741124024,-42.3601395732299
4145,4747,[CH3:1][C:2]([CH3:3])=[CH:4][CH:5]=[O:6].[CH3:7][NH:8][C:9](=[O:10])[CH-:11][N+:12]([CH3:13])=[C:14]([C:15]#[N:16])[c:17]1[cH:18][cH:19][cH:20][cH:21][cH:22]1>>[CH3:1][C:2]1([CH3:3])[CH:4]([CH:5]=[O:6])[CH:11]([C:9]([NH:8][CH3:7])=[O:10])[N:12]([CH3:13])[C:14]1([C:15]#[N:16])[c:17]1[cH:18][cH:19][cH:20][cH:21][cH:22]1,water,298.15,28.875636727844824,-19.62764171724676
3643,4162,[C:1]1(=[O:2])[CH:3]=[CH:4][C:5](=[O:6])[CH:7]=[CH:8]1.[CH3:9][C:10](=[O:11])[N-:12][NH+:13]=[N:14][c:15]1[cH:16][cH:17][cH:18][cH:19][cH:20]1>>[C:1]1(=[O:2])[CH:3]=[CH:4][C:5](=[O:6])[C@H:7]2[C@@H:8]1[N:12]([C:10]([CH3:9])=[O:11])[NH:13][N:14]2[c:15]1[cH:16][cH:17][cH:18][cH:19][cH:20]1,water,298.15,24.418762380740706,4.771298781538229
637,697,[CH3:1][C:2]1=[CH:3][CH:4]2[CH:5]=[CH:6][CH:7]1[O:8]2.[CH3:9][NH:10][C:11](=[O:12])[c:13]1[nH+:14][c-:15]([C:16](=[O:17])[NH:18][CH3:19])[c:20](=[O:21])[o:22]1>>[CH3:1][C:2]12[CH:3]([CH:4]3[CH:5]=[CH:6][CH:7]1[O:8]3)[C:13]1([C:11]([NH:10][CH3:9])=[O:12])[NH:14][C:15]2([C:16](=[O:17])[NH:18][CH3:19])[C:20](=[O:21])[O:22]1,water,298.15,16.92232206327166,-15.200189106903515
5062,5750,[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10].[CH3:11][O:12][C:13](=[O:14])[C:15]#[N+:16][C-:17]([c:18]1[cH:19][cH:20][cH:21][cH:22][cH:23]1)[c:24]1[cH:25][cH:26][cH:27][cH:28][cH:29]1>>[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[C@H:6]2[C@:7]1([C:8]([NH2:9])=[O:10])[C:17]([c:18]1[cH:19][cH:20][cH:21][cH:22][cH:23]1)([c:24]1[cH:25][cH:26][cH:27][cH:28][cH:29]1)[N:16]=[C:15]2[C:13]([O:12][CH3:11])=[O:14],water,298.15,20.20851672895036,-16.087086316366065
257,281,[CH3:1][C:2](=[O:3])[C:4]#[C:5][C:6]#[N:7].[CH3:8][NH:9][C:10](=[O:11])[C:12]([C:13](=[O:14])[O:15][CH3:16])=[N+:17]([CH3:18])[NH-:19]>>[CH3:1][C:2](=[O:3])[C:4]1=[C:5]([C:6]#[N:7])[NH:19][N:17]([CH3:18])[C:12]1([C:10]([NH:9][CH3:8])=[O:11])[C:13](=[O:14])[O:15][CH3:16],water,298.15,14.84889894038272,-40.85236388998538
139,155,[CH3:10][C:11](=[O:12])[CH:13]=[O+:14][C-:15]([CH3:16])[CH3:17].[CH3:1][O:2][C:3](=[O:4])[C:5]#[C:6][C:7]([CH3:8])=[O:9]>>[CH3:1][O:2][C:3](=[O:4])[C:5]1=[C:6]([C:7]([CH3:8])=[O:9])[CH:13]([C:11]([CH3:10])=[O:12])[O:14][C:15]1([CH3:16])[CH3:17],water,298.15,8.093623372657639,-70.04098933019425
